US04782050
A. 1-t-butyldimethylsilyloxyethylbenzimidazole
A solution of 50 ml of tetrahydrofuran containing 2.5 g (15.4 mmoles) of 1-hydroxyethylbenzimidazole, 2.3 g (15.4 mmoles) of t-butyldimethylsilyl chloride and 1.0 g (15.4 mmoles) of imidazole was allowed to stir overnight at room temperature. The reaction mixture was poured into water and the product extracted with ethyl acetate (2×100 ml). The combined extracts were dried over magnesium sulfate and concentrated in vacuo to a colorless oil, 3.5 g. The intermediate was purified by chromatography on 100 g of silica gel using chloroform as the eluent, 3.11 g.

reactant | tetrahydrofuran | 15.4 mmoles, 50 ml, 2.5 g | O1CCCC1 | C4H8O
reactant | 1-hydroxyethylbenzimidazole | OC(C)C=1NC2=C(N1)C=CC=C2 | C9H10N2O
reactant | t-butyldimethylsilyl chloride | 15.4 mmoles, 2.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 15.4 mmoles, 1.0 g | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
product | 1-t-butyldimethylsilyloxyethylbenzimidazole | [Si](C)(C)(C(C)(C)C)OC(C)C=1NC2=C(N1)C=CC=C2 | C15H24N2OSi
